US04003893
3.1 gms. of 7-aminocephalosporanic acid and 3.4 gms. of [[(phenylthio)methyl]thio]acetyl chloride are treated according to the procedure of Example 3 to obtain DL-3-[(acetyloxy)methyl]-7-[[[[(phenylthio)methyl] thio]acetyl]-amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid. For purification, this product is converted to its potassium salt with potassium ethyl hexanoate. The reaction mixture is acidified and extracted with ethyl acetate to obtain the purified free acid. This is dissolved in methylene chloride and petroleum ether is added to the solution. The product precipitates in amorphous solid form.

reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | [[(phenylthio)methyl]thio]acetyl chloride | C1(=CC=CC=C1)SCSCC(=O)Cl | C9H9ClOS2
product | 3-[(acetyloxy)methyl]-7-[[[[(phenylthio)methyl] thio]acetyl]-amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CSCSC1=CC=CC=C1)=O)=O)C(=O)O | C19H20N2O6S3
